US04044139
Step 3. Preparation of 1,2-bis[4-(3-methyl-alpha-aminobenzyl)phenoxy]ethane.
A reaction mixture is prepared from 1,2-bis[4-(3-methylbenzoyl)phenoxy]ethane dioxime (10.6 g, 0.022 mole), 400 ml absolute ethyl alcohol saturated with ammonia gas and Raney nickel catalyst W-6 (2 g). This mixture is subjected to 500 psi hydrogen pressure, heated to 90° and stirred for seven hours. The Raney nickel is removed by filtration and the alcohol and ammonia by distillation. The residual crude material is crystallized from ethanol to yield 4.2 g (42%) of material mp 113°-115°.

reactant | 1,2-bis[4-(3-methylbenzoyl)phenoxy]ethane dioxime | 0.022 mole, 10.6 g | CC=1C=C(C(C2=CC=C(OCCOC3=CC=C(C=C3)C(C3=CC(=CC=C3)C)=NO)C=C2)=NO)C=CC1 | C30H28N2O4
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | ethyl alcohol | 400 ml | C(C)O | C2H6O
product | 1,2-bis[4-(3-methyl-alpha-aminobenzyl)phenoxy]ethane | 4.2 g, 42% | CC=1C=C(C(N)C2=CC=C(OCCOC3=CC=C(C=C3)C(C3=CC(=CC=C3)C)N)C=C2)C=CC1 | C30H32N2O2
